US05574159
Crude 3-((2R,5S)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(1H-benzotriazol-1-yl)methyl)-N-(3-fluorophenyl)-N-methylbenzamide was prepared from (2R,5S)-1-allyl-2,5-dimethylpiperazine (1.89 g), benzotriazole (1.39 g), and N-(3-fluorophenyl)-3-formyl-N-methylbenzamide (3.0 g) in toluene as described in Example 16. Method B.

reactant | (2R,5S)-1-allyl-2,5-dimethylpiperazine | 1.89 g | C(C=C)N1[C@@H](CN[C@H](C1)C)C | C9H18N2
reactant | benzotriazole | 1.39 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | N-(3-fluorophenyl)-3-formyl-N-methylbenzamide | 3.0 g | FC=1C=C(C=CC1)N(C(C1=CC(=CC=C1)C=O)=O)C | C15H12FNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3-fluorophenyl)-N-methylbenzamide | FC=1C=C(C=CC1)N(C(C1=CC=CC=C1)=O)C | C14H12FNO
